US06407086B2
3β,24-Bis(tert-butyldimethylsilyloxy)-4,4-dimethylchol-5-ene (44 g) is dissolved in a warm mixture of hexane (2 l) and benzene (540 ml). 1,3-Dibromo-5,5-dimethylhydantoin (15.32 g) is added and the mixture is refluxed for 20 min and then cooled rapidly to room temperature, and the insoluble material is removed by filtration. The filtrate is concentrated under reduced pressure and o-xylene (2 l) and quinaldine (84 ml) is added. The mixture is refluxed for 1 hour. After aqueous work-up and trituration with methanol, 3β,24-bis(tert-butyldimethylsilyloxy)-4,4-dimethylchola-5,7-diene (39 g) is isolated. Melting point: 98-106° C. 1H-NMR (CDCl3, 400 MHz): δ=5.9 (1H, m); 5.54 (1H, m); 3.58 (2H, m); 3.35 (1H, m); 0.91 (18H, s); 0.05 (12H, m).

reactant | 3β,24-Bis(tert-butyldimethylsilyloxy)-4,4-dimethylchol-5-ene | 44 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(C2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCO[Si](C)(C)C(C)(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C38H72O2Si2
reactant | 1,3-Dibromo-5,5-dimethylhydantoin | 15.32 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | hexane | 2 l | CCCCCC | C6H14
solvent | benzene | 540 ml | C1=CC=CC=C1 | C6H6
product | 3β,24-bis(tert-butyldimethylsilyloxy)-4,4-dimethylchola-5,7-diene | 39 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(C2=CC=C3[C@@H]4CC[C@H]([C@@H](CCCO[Si](C)(C)C(C)(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C38H70O2Si2
